US08314100B2
a) 3,6-Dimethoxy-2-(2,4-dimethoxybenzylamino)quinoxaline
To 2-chloro-3,6-dimethoxyquinoxaline (3.87 g, 17.2 mmol) dissolved in dimethyl-sulfoxide (70 ml), 2,4-dimethoxybenzylamine (6.07 g, 36.3 mmol) was added at room temperature. The mixture was stirred at 60° C. for 118 hours and then water was added thereto. The product was extracted with ethyl acetate and the organic layer was washed with water and dried over MgSO4. After concentration under the reduced pressure, the crude product was purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (6:1) mixture and concentration gave 4.69 g of the titled compound (yield, 77%).

reactant | 2-chloro-3,6-dimethoxyquinoxaline | 17.2 mmol, 3.87 g | ClC1=NC2=CC=C(C=C2N=C1OC)OC | C10H9ClN2O2
reactant | 2,4-dimethoxybenzylamine | 36.3 mmol, 6.07 g | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | water | O | H2O
solvent | dimethyl-sulfoxide | 70 ml | CS(=O)C | C2H6OS
product | 3,6-Dimethoxy-2-(2,4-dimethoxybenzylamino)quinoxaline | 4.69 g, 77% | COC=1C(=NC2=CC=C(C=C2N1)OC)NCC1=C(C=C(C=C1)OC)OC | C19H21N3O4
